US09108977B2
To a solution of 1.793 g of t-butyl {2-[7-(2-hydroxyethyl)-8-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl]ethyl}carbamate in 30 ml of THF were added 0.48 ml of methanesulfonyl chloride and 1.5 ml of triethylamine under ice-cooling, followed by stirring for 30 minutes. To the reaction mixture was added portionwise 1.8 g of potassium t-butoxide under ice-cooling, followed by stirring for 1.5 hours. To the reaction mixture was added a saturated aqueous ammonium chloride solution, followed by extraction with EtOAc. The organic layer was dried over anhydrous magnesium sulfate and then filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography (elution solvent: HEX-EtOAc) to obtain 1.06 g of t-butyl 11-methyl-2-oxo-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate as a white foamed substance.

reactant | t-butyl {2-[7-(2-hydroxyethyl)-8-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-6-yl]ethyl}carbamate | 1.793 g | OCCC1=C(C=C2CCC(NC2=C1C)=O)CCNC(OC(C)(C)C)=O | C19H28N2O4
reactant | methanesulfonyl chloride | 0.48 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | potassium t-butoxide | 1.8 g | CC(C)([O-])C.[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
product | t-butyl 11-methyl-2-oxo-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate | 1.06 g | CC=1C2=C(C=C3CCC(NC13)=O)CCN(CC2)C(=O)OC(C)(C)C | C19H26N2O3
